US07544690B2
To a solution of trans-4-aminomethyl-cyclohexanecarboxylic acid (1.5 g, 10 mmol) in THF (10 mL) and 1 M aqueous sodium hydroxide (27 mL) was added a solution of 2,5-bis(2,2,2-trifluoroethoxy)benzenesulfonyl chloride (3.8 g, 10.25 mmol) in THF (10 mL) dropwise and the mixture was stirred at ambient temperature for 2 hr. The resulting mixture was concentrated and 1 M aqueous HCl (22.5 mL) was added. The resulting precipitate was filtered, washed with water and hexanes to give trans-4-{[2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonylamino]-methyl}-cyclohexanecarboxylic acid as a white powder (2.8 g, 57%).

reactant | trans-4-aminomethyl-cyclohexanecarboxylic acid | 10 mmol, 1.5 g | NC[C@@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
reactant | 2,5-bis(2,2,2-trifluoroethoxy)benzenesulfonyl chloride | 10.25 mmol, 3.8 g | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)S(=O)(=O)Cl)(F)F | C10H7ClF6O4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1 M, 27 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | trans-4-{[2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonylamino]-methyl}-cyclohexanecarboxylic acid | 2.8 g, 57% | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O)(F)F | C18H21F6NO6S
